US05498728
A mixture of N-benzyloxycarbonyl-(L)-tryptophanol (0.974 g) in methanol (10 ml), palladium-carbon (10%, 0.195 g) was subjected to catalytic hydrogenation at room temperature under 1 atmospheric pressure. After the palladium-carbon was filtered off, the filtrate was concentrated under reduced pressure to yield an oily substance. This oily substance and N-benzyloxycarbonyl-(L)-phenylalanine (0.90 g) were dissolved in tetrahydrofuran (THF) (20 ml), and 1-hydroxybenzotriazole (HOBt) (0.506 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSCD·HCl) (0.69 g) were added at 0° C. After stirring at room temperature for 21 hours, the reaction mixture was poured over ethyl acetate. The ethyl acetate layer was washed by sequential additions of a 10% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution and saturated saline and then dried (MgSO4). After the solvent was distilled off, the oily residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (2:1) to yield N-benzyloxycarbonyl-(L)-phenylalanyl-(L)-tryptophanol (0.878 g, 62%).

reactant | N-benzyloxycarbonyl-(L)-tryptophanol | 0.974 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C19H20N2O3
reactant | N-benzyloxycarbonyl-(L)-phenylalanine | 0.90 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 1-hydroxybenzotriazole | 0.506 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.69 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.195 g | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-(L)-phenylalanyl-(L)-tryptophanol | 0.878 g, 62% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C28H29N3O4
